US05639770
A solution of 38.5 g of metachloroperbenzoic acid (80%) dissolved in 400 ml of methylene chloride was dropwise added, with ice cooling, to a solution of 49.6 g of 2-(3,4-diethoxyphenyl)-4-(2-pyridyl)thiazole dissolved in 250 ml of methylene chloride. The mixture was stirred at room temperature for 2 hours. To the reaction mixture was added an aqueous sodium hydrogencarbonate solution, followed by separation of layers. The organic layer was washed with an aqueous sodium hydrogencarbonate solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was recrystallized from ethyl acetate to obtain 45.2 g of 2-[2-(3,4-diethoxyphenyl)-4-thiazolyl]pyridine-1-oxide.

reactant | metachloroperbenzoic acid | 38.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(3,4-diethoxyphenyl)-4-(2-pyridyl)thiazole | 49.6 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC=CC=C1 | C18H18N2O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(3,4-diethoxyphenyl)-4-thiazolyl]pyridine-1-oxide | 45.2 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=[N+](C=CC=C1)[O-] | C18H18N2O3S
